US07179830B2
b) 2-(2-Trifluoromethylphenylamino)-1H-thieno[3,4-d]imidazole hydrochloride
A solution of 165.3 mg of p-toluenesulfonyl chloride in 5 ml of THF was added dropwise to a mixture prepared from a solution of 250 mg of N-(3-amino-4-thienyl)-N′-(2-trifluoromethylphenyl)thiourea in 15 ml of THF and a solution of 77.8 mg of NaOH in 3 ml of water. After stirring at room temperature for 2 hours, the solvent was distilled off, and the residue was admixed with water and extracted with ethyl acetate. After the washing, the organic phase was dried over sodium sulfate, the solvent was distilled off and the residue was purified by column chromatography on silica gel using a mixture of 20 parts by volume of ethyl acetate, 10 parts by volume of n-heptane and 3 parts by volume of glacial acetic acid. After the solvent of the fraction which had been identified by the LC-MS technique had been distilled off, the residue was dissolved in a little ethyl acetate, made strongly acidic using a solution of hydrogen chloride gas in diethyl ether, and the crystals were filtered off after having been left to stand overnight.

reactant | p-toluenesulfonyl chloride | 165.3 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-(3-amino-4-thienyl)-N′-(2-trifluoromethylphenyl)thiourea | 250 mg | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1)C(F)(F)F | C12H10F3N3S2
reactant | NaOH | 77.8 mg | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 2-(2-Trifluoromethylphenylamino)-1H-thieno[3,4-d]imidazole hydrochloride | Cl.FC(C1=C(C=CC=C1)NC1=NC=2C(N1)=CSC2)(F)F | InChI=1S/C12H8F3N3S.ClH/c13-12(14,15)7-3-1-2-4-8(7)16-11-17-9-5-19-6-10(9)18-11;/h1-6H,(H2,16,17,18);1H
